US07381749B2
4-Acetyl-N-(4-trifluoromethoxy-phenyl)-benzenesulfonamide
4-Trifluoromethoxy aniline (3.4 g, 19.21 mmol)was dissolved in THF (25 ml) before pyridine (4.44 ml, 54.88 mmol) was added. 4-Acetyl-benzenesulfonyl chloride (4.0 g, 18.29 mmol) was then added as a solid, and the resulting dark solution was stirred for 10 minutes. The volatiles were then removed, and the resulting residue was suspended in THF. Excess Et3N was then added, and the mixture was stirred for several minutes before the solids were filtered. The mother liquor was then evaporated to a solid which was purified by flash chromatography (EtOAc/hexanes) to yield the desired compound as a white solid. (5.5 g (15.31 mmol, 84%).

reactant | 4-Trifluoromethoxy aniline | 19.21 mmol, 3.4 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | pyridine | 54.88 mmol, 4.44 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-Acetyl-benzenesulfonyl chloride | 18.29 mmol, 4.0 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO3S
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 4-Acetyl-N-(4-trifluoromethoxy-phenyl)-benzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)OC(F)(F)F | C15H12F3NO4S
